US06734186B1
Benzyl 2-{[1-(chlorocarbonyl)cyclopentyl]methyl}pentanoate
Oxalyl chloride (1.15 ml, 13.2 mmol) was added to an ice-cooled solution of 1-{2-[(benzyloxy)carbonyl]pentyl}cyclopentanecarboxylic acid (EP 274234) (2.0 g, 6.3 mmol) in dry dichloromethane (20 ml), and the solution stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue azetroed with dichloromethane (3×), to give the title compound as a golden oil, 2.1 g; 1H NMR (CDCl3, 300 MHz) δ: 0.88 (t, 3H), 1.28 (m, 2H), 1.43 (m, 2H), 1.63 (m, 6H), 2.00 (m, 1H), 2.08-2.35 (m, 3H), 2.44 (m, 1H), 5.15 (s, 2H), 7.28 (m, 5H).

reactant | Oxalyl chloride | 13.2 mmol, 1.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-{2-[(benzyloxy)carbonyl]pentyl}cyclopentanecarboxylic acid | 6.3 mmol, 2.0 g | C(C1=CC=CC=C1)OC(=O)C(CC1(CCCC1)C(=O)O)CCC | C19H26O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Benzyl 2-{[1-(chlorocarbonyl)cyclopentyl]methyl}pentanoate | ClC(=O)C1(CCCC1)CC(C(=O)OCC1=CC=CC=C1)CCC | C19H25ClO3
